US03932416
4(4-Methylpiperazino)-N(1H-tetrazol-5-yl)quinaldamide, trihydrochloride
4-Chloro-N(1H-tetrazol-5-yl)quinaldamide (0.6 g), N-methylpiperazine (5 ml) and water (1 ml) were heated on a steam bath for 18 hours. Water (5 ml) and dilute hydrochloric acid were added to pH 1 and the solid was collected and washed with 0.1N hydrochloric acid and dried, m.p. 215° (d).

reactant | 4-Chloro-N(1H-tetrazol-5-yl)quinaldamide | 0.6 g | ClC1=CC(C(=O)NC2=NN=NN2)=NC2=CC=CC=C12 | C11H7ClN6O
reactant | N-methylpiperazine | 5 ml | CN1CCNCC1 | C5H12N2
reactant | hydrochloric acid | Cl | ClH
solvent | Water | 5 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | 4(4-Methylpiperazino)-N(1H-tetrazol-5-yl)quinaldamide, trihydrochloride | Cl.Cl.Cl.CN1CCN(CC1)C1=CC(C(=O)NC2=NN=NN2)=NC2=CC=CC=C12 | InChI=1S/C16H18N8O.3ClH/c1-23-6-8-24(9-7-23)14-10-13(15(25)18-16-19-21-22-20-16)17-12-5-3-2-4-11(12)14;;;/h2-5,10H,6-9H2,1H3,(H2,18,19,20,21,22,25);3*1H
